*  74hcng.lib
*
*  derived from 74HCxxx Model libraray for LTSPICE from www.linear.com/software
*
*  Revision 1.01 06/25/2018   test devices NAND, NOR, and XOR as XSPICE subcircuit for ngspice
*
*  All parts have been divided into three sections.
*
*  >--| A-D-Converter (threshold VCC1/2) |----| Event LOGIC Axx (delay) |----| OUTPUT LEVEL D-A (rise and fall times) |-->
*
*  Delays are given for Vcc = 2V/4.5V/6V (HC) from the
*  Philips data sheets. http://www.philipslogic.com
*
*  Delays are given for Vcc = 2V/4.5V/6V .
*  Used delay:  Td = (Tpd-Tr/2)*(4.5-0.5)/(Vcc-0.5)
*  The gate delay has to be set to tpd minus 3ns for the input filter
*  and another minus 3ns for Trise/2
*    td1 = tpd  - 3ns - 3ns
*

.param vcc=5 tripdt=6n
***********************************************************************************
* The 74HCXX gates
*
* 2-input NAND gate
* vcc 2 /4.5/5 /6
* tpd 25n/9n/7n/7n
* tr 19n/7n /  /6n
.SUBCKT 74HC00  in1 in2 out  NVCC NVGND  vcc1={vcc} tripdt1={tripdt}
.param td1={1e-9*(9-3-3)*4.0/(vcc1-0.5)}
.param Rout={60*4.0/(vcc1-0.5)} ; standard output driver
*Cin1 in1 0 3.5p
*Cin2 in2 0 3.5p
abridge2 [in1 in2] [din1 din2] adc_buff
.model adc_buff adc_bridge(in_low = {vcc1/2.0} in_high = {vcc1/2.0})
a6 [din1 din2] dout nand1
.model nand1 d_nand(rise_delay = {td1} fall_delay = {td1}
+ input_load = 0.5e-12)
abridge1 [dout] [out20] dac1
.model dac1 dac_bridge(out_low = 0.0 out_high = {vcc1} out_undef = {vcc1/2.0}
+ input_load = 5.0e-12 t_rise = {tripdt1}
+ t_fall = {tripdt1})
Rout out20 out {Rout}
.ends


* 2-input NOR gate
* tpd 25n/9n/7n
* tr 19n/7n/6n
.SUBCKT 74HC02  in1 in2 out  NVCC NVGND  vcc1={vcc} tripdt1={tripdt}
.param td1={1e-9*(9-3-3)*4.0/(vcc1-0.5)}
.param Rout={60*4.0/(vcc1-0.5)} ; standard output driver
*Cin1 in1 0 3.5p
*Cin2 in2 0 3.5p
abridge2 [in1 in2] [din1 din2] adc_buff
.model adc_buff adc_bridge(in_low = {vcc1/2.0} in_high = {vcc1/2.0})
a6 [din1 din2] dout nor1
.model nor1 d_nor(rise_delay = {td1} fall_delay = {td1} input_load = 0.5e-12)
abridge1 [dout] [out20] dac1
.model dac1 dac_bridge(out_low = 0.0 out_high = {vcc1} out_undef = {vcc1/2.0}
+ input_load = 5.0e-12 t_rise = {tripdt1} t_fall = {tripdt1})
Rout out20 out {Rout}
.ends


** 2-input AND gate
* tpd 25n/9n/7n
* tr 19n/7n/6n
.SUBCKT 74HC08  in1 in2 out  NVCC NVGND  vcc1={vcc} tripdt1={tripdt}
.param td1={1e-9*(9-3-3)*4.0/(vcc1-0.5)}
.param Rout={60*4.0/(vcc1-0.5)} ; standard output driver
*Cin1 in1 0 3.5p
*Cin2 in2 0 3.5p
abridge2 [in1 in2] [din1 din2] adc_buff
.model adc_buff adc_bridge(in_low = {vcc1/2.0} in_high = {vcc1/2.0})
a6 [din1 din2] dout and1
.model and1 d_and(rise_delay = {td1} fall_delay = {td1}
+ input_load = 0.5e-12)
abridge1 [dout] [out20] dac1
.model dac1 dac_bridge(out_low = 0.0 out_high = {vcc1} out_undef = {vcc1/2.0}
+ input_load = 5.0e-12 t_rise = {tripdt1}
+ t_fall = {tripdt1})
Rout out20 out {Rout}
.ends
**

* 2-input OR gate
* tpd 25n/9n/7n
* tr 19n/7n/6n
.SUBCKT 74HC32  in1 in2 out  NVCC NVGND  vcc1={vcc} tripdt1={tripdt}
.param td1={1e-9*(9-3-3)*4.0/(vcc1-0.5)}
.param Rout={60*4.0/(vcc1-0.5)} ; standard output driver
*Cin1 in1 0 3.5p
*Cin2 in2 0 3.5p
abridge2 [in1 in2] [din1 din2] adc_buff
.model adc_buff adc_bridge(in_low = {vcc1/2.0} in_high = {vcc1/2.0})
a6 [din1 din2] dout or1
.model or1 d_or(rise_delay = {td1} fall_delay = {td1} input_load = 0.5e-12)
abridge1 [dout] [out20] dac1
.model dac1 dac_bridge(out_low = 0.0 out_high = {vcc1} out_undef = {vcc1/2.0}
+ input_load = 5.0e-12 t_rise = {tripdt1} t_fall = {tripdt1})
Rout out20 out {Rout}
.ends


* 2-input EXOR gate
* tpd 39n/14n/11n
* tr 19n/7n/6n
.SUBCKT 74HC86  in1 in2 out  NVCC NVGND  vcc1={vcc} tripdt1={tripdt}
.param td1={1e-9*(14-3-3)*4.0/(vcc1-0.5)}
.param Rout={60*4.0/(vcc1-0.5)} ; standard output driver
*Cin1 in1 0 3.5p
*Cin2 in2 0 3.5p
abridge2 [in1 in2] [din1 din2] adc_buff
.model adc_buff adc_bridge(in_low = {vcc1/2.0} in_high = {vcc1/2.0})
a6 [din1 din2] dout xor3
.model xor3 d_xor(rise_delay = {td1} fall_delay = {td1}
+ input_load = 0.5e-12)
abridge1 [dout] [out20] dac1
.model dac1 dac_bridge(out_low = 0.0 out_high = {vcc1} out_undef = {vcc1/2.0}
+ input_load = 5.0e-12 t_rise = {tripdt1} t_fall = {tripdt1})
Rout out20 out {Rout}
.ends


*
*============================================================================
*
* A hopefully real transistor level based model of the 74HCU04. The model
* comes directly from philips. http://www.philipslogic.com/support/spice/
* This a unbuffered inverter which is often used in LC or crystal oscillators.
* Inverter, unbuffered
* Original Philips model used.
.SUBCKT 74HCU04  A Y  VCC VGND  vcc1={vcc} speed1={speed} tripdt1={tripdt}
*Rin  A A1  200
*Cin  A1 VGND  3p
*XAY  A1 Y VCC VGND 74HC04_INV0
XAY  A Y VCC VGND 74HC04_INV0
.ends
*
*
.SUBCKT 74HC04_INV0  2  3  80 90
*IN=2, OUT=3, VCC=80, GND=90
XINP  20  25  50  60    74HC_INP0N
XOUTP 25  30  50  60    74HC_OUTPN
L1  80  50   6.87NH
L2  60  90   6.87NH
L3   2  20   5.97NH
L4  30   3   5.97NH
C1  50  90   1.5P
C2  60  90   1.5P
C3  20  90   1.5P
C4  3   90   1.5P
.ENDS
*
.SUBCKT 74HC_INP0N  2  3  50  60
*IN=2, OUT=3, VCC=50, GND=60
R1  2  3  100
MP1 3 50 50 50  MHCPEN W=20U L=2.4U AD=100P AS=100P PD=40U PS= 20U
MN1 3 60 60 60  MHCNEN W=35U L=2.4U AD=260P AS=260P PD=70U PS= 20U
.ENDS
*
.SUBCKT 74HC_OUTPN 2  3  50  60
*IN=2, OUT=3, VCC=50, GND=60
R1  2 4 100
MP1 3 4 50 50  MHCPEN W=360U L=2.4U AD=400P AS=400P PD=10U PS=180U
MN1 3 4 60 60  MHCNEN W=140U L=2.4U AD=200P AS=300P PD=10U PS=130U
R2  4 5 50
MP2 3 5 50 50  MHCPEN W=360U L=2.4U AD=400P AS=400P PD=10U PS=180U
MN2 3 5 60 60  MHCNEN W=140U L=2.4U AD=200P AS=200P PD=10U PS=130U
R3  5 6 50
MP3 3 6 50 50  MHCPEN W=360U L=2.4U AD=400P AS=400P PD=10U PS=180U
MN3 3 6 60 60  MHCNEN W=140U L=2.4U AD=200P AS=200P PD=10U PS=130U
.ENDS
************************************************
*         NOMINAL N-Channel Transistor         *
*            UCB-3 Parameter Set               *
*         HIGH-SPEED CMOS Logic Family         *
*                10-Jan.-1995                  *
************************************************
.Model MHCNEN NMOS (
+LEVEL = 3
+KP    = 45.3E-6
+VTO   = 0.72
+TOX   = 51.5E-9
+NSUB  = 2.8E15
+GAMMA = 0.94
+PHI   = 0.65
+VMAX  = 150E3
+RS    = 40
+RD    = 40
+XJ    = 0.11E-6
+LD    = 0.52E-6
+DELTA = 0.315
+THETA = 0.054
+ETA   = 0.025
+KAPPA = 0.0
+WD    = 0.0 )

***********************************************
*        NOMINAL P-Channel transistor         *
*           UCB-3 Parameter Set               *
*         HIGH-SPEED CMOS Logic Family        *
*               10-Jan.-1995                  *
***********************************************
.Model MHCPEN PMOS (
+LEVEL = 3
+KP    = 22.1E-6
+VTO   = -0.71
+TOX   = 51.5E-9
+NSUB  = 3.3E16
+GAMMA = 0.92
+PHI   = 0.65
+VMAX  = 970E3
+RS    = 80
+RD    = 80
+XJ    = 0.63E-6
+LD    = 0.23E-6
+DELTA = 2.24
+THETA = 0.108
+ETA   = 0.322
+KAPPA = 0.0
+WD    = 0.0 )



